US07592363B2
3-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-N,N-DIMETHYLBENZAMIDE
This compound was prepared from Example 912. Methyl 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoate (49 mg, 0.0971 mmol) was dissolved in a 2M solution of dimethylamine in methanol (1.5 mL), 0.5 mg of sodium cyanide was added and the reaction mixture was stirred at 60° C. overnight. The solvent was evaporated, the residue dissolved in CH2Cl2 and washed with brine. The combined organic phases were dried, evaporated and the crude material was purified by HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford 9 mg of analytically pure product.

reactant | Methyl 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoate | 0.0971 mmol, 49 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)OC)C=CC2)C=C1)C(F)(F)F | C29H21F3N2O3
reactant | sodium cyanide | 0.5 mg | [C-]#N.[Na+]
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 1.5 mL | CO | CH4O
product | 3-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}-N,N-DIMETHYLBENZAMIDE | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)N(C)C)C=CC2)C=C1)C(F)(F)F | C30H24F3N3O2
